* * source UCC27282
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC27282
* Date: 10/31/2018
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number:
* EVM Users Guide: SLUUBM2
* Datasheet: SNVSAQ5
* Model Version: Final 1.0
* Release to Web.
****************************************************************
*$
.SUBCKT UCC27282 LI HI EN VDD VSS HB  HO HS  LO
E_U1_E2         HO U1_N16706734 VALUE { IF(V(U1_N16706930, 0) > 0.5, -5, 5) }
R_U1_R9         U1_N16707490 U1_N16707354  50
V_U1_V10         U1_N16706152 0 0.5
X_U1_U15         EN U1_N16711349 U1_N16711355 U1_N16713299 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_E6         U1_HI_ON VSS U1_N16708422 VSS 1
E_U1_E1         U1_N16707534 U1_HOH VALUE { IF(V(U1_HI_ON, 0) > 0.5, 5, -5) }
X_U1_U16         U1_N16712773 U1_N16713299 U1_N16707820 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=.5
X_U1_U4         U1_N16706536 U1_UVLOHI U1_N16708416 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=.5
C_U1_C6         HO U1_N16706748  7.5p
X_U1_U5         HI U1_N16706446 U1_N16706474 U1_N16706240 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_E7         U1_N16708078 VSS HB HS 1
M_U1_M1         U1_N16707574 U1_N16707548 U1_HOH U1_HOH NMOS01
C_U1_C7         U1_N16707366 U1_N16707354  12.5p
R_U1_R11         U1_HOH HO  1m
X_U1_U7         U1_HI_ON U1_N16706930 falling_delay PARAMS:  DELAY=1n VDD=1
+  VSS=0 VTHRESH=0.5
R_U1_R10         U1_N16707366 VSS  0.02
V_U1_V3         U1_N16706446 VSS 2.1
C_U1_C1         U1_N16707548 U1_N16707574  20p
E_U1_E5         U1_LO_ON VSS U1_N16708190 VSS 1
X_U1_U11         U1_N16708416 U1_N16708422 BUFFER_PS PARAMS: VHI=1 VLO=0
+  VTHRESH=500E-3 TPLH={Thplh} TPHL={Thphl} TR=1E-9 TF=1E-9
X_U1_U6         VDD HB d_d1 PARAMS:
***X_U1_U6         0 0  d_d1 PARAMS:
V_U1_V4         U1_N16706474 0 1
C_U1_C3         U1_HOH U1_N16707548  5p
C_U1_C8         LO U1_N16707354  7.5p
R_U1_R4         HB U1_N16707574  0.02
X_U1_U17         U1_N16706240 U1_LOCK U1_N16707820 U1_UVLOHI AND3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U12         U1_UVLOLOW U1_N16708190 BUFFER_PS PARAMS: VHI=1 VLO=0
+  VTHRESH=500E-3 TPLH={Tlplh} TPHL={Tlphl} TR=1E-9 TF=1E-9
E_U1_E4         U1_N16707138 U1_LOH VALUE { IF(V(U1_LO_ON, 0) > 0.5, 5, -5) }
R_U1_R7         U1_N16707138 U1_N16707192  50
R_U1_R12         U1_LOH LO  1m
M_U1_M4         U1_N16707366 U1_N16707354 LO LO PMOS01
M_U1_M2         U1_N16706782 U1_N16706748 HO HO PMOS01
R_U1_R2         VSS HI  250k
V_U1_V11         U1_N16711349 VSS 1.8
R_U1_R5         U1_N16706734 U1_N16706748  50
X_U1_U13         HB U1_N16708226 U1_N16708274 U1_N16706536 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
M_U1_M3         U1_N16707204 U1_N16707192 U1_LOH U1_LOH NMOS01
V_U1_V1         U1_N16706306 VSS 2.1
X_U1_U9         U1_N16708078 U1_N16707998 U1_N16708046 N16718557
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U8         U1_LO_ON U1_N16707522 falling_delay PARAMS:  DELAY=1n VDD=1
+  VSS=0 VTHRESH=0.5
V_U1_V12         U1_N16711355 0 0.4
C_U1_C4         U1_N16707192 U1_N16707204  20p
V_U1_V7         U1_N16708226 0 3.7
E_U1_E3         LO U1_N16707490 VALUE { IF(V(U1_N16707522, 0) > 0.5, -5, 5) }
C_U1_C2         U1_N16706782 U1_N16706748  12.5p
X_U1_U14         VDD U1_N16706124 U1_N16706152 U1_N16712773 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U1_V2         U1_N16706332 0 1
V_U1_V5         U1_N16707998 0 3.55
C_U1_C5         U1_LOH U1_N16707192  5p
R_U1_R13         VSS EN  200k
V_U1_V8         U1_N16708274 0 0.4
R_U1_R6         U1_N16706782 HS  0.02
X_U1_U10         LI U1_N16706306 U1_N16706332 U1_N16706526 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U20         HI LI U1_LOCK VSS NAND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U1_R8         VDD U1_N16707204  0.02
V_U1_V6         U1_N16708046 0 0.1
R_U1_R1         VSS LI  250k
V_U1_V9         U1_N16706124 VSS 5
R_U1_R3         U1_N16707534 U1_N16707548  50
X_U1_U18         U1_N16707820 U1_LOCK U1_N16706526 U1_UVLOLOW AND3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
.PARAM  thplh=10n tlphl=8.2n thphl=8n tlplh=10.5n
.ends UCC27282
*$
** Wrapper definitions for AA legacy support **
******************************
.model NMOS01 nmos
+ vto=2
+ kp=0.55
+ lambda=0.001
******************************
*$
.subckt falling_delay in out params: delay=100n vdd=1 vss=0 vthresh=0.5
x_u1         int out buf_basic_gen params: vdd={vdd} vss={vss} vthresh=
+ {vthresh}
r_r1         in int  {delay/(0.693 * 1e-9)}
c_c1         0 int  1n
d_d1         in int dd
.model dd d
+ is=1e-015
+ n=1
+ tt=1e-011
.ends falling_delay
*$
******************************
.subckt d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=1
.ends d_d1
*$
******************************
.model PMOS01 pmos
+ vto=-2
+ kp=0.772
+ lambda=0.001
******************************
**** ALL DIGITAL GATES***********
******************************************************************************
******************************************************************************
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM Yint 0 VALUE {IF (V(INP) >
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5.0n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT COMPHYS2_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
+ T=10
EIN INP1 INM1 INP INM 1
EHYS INM2 INM1 VALUE { IF( V(1) > {VTHRESH},-V(HYS)/2,V(HYS)/2) }
EOUT OUT 0 VALUE { IF( V(INP1)>V(INM2), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 {T*1e-9}
RINP1 INP1 0 10K
RINM2 INM2 0 10K
.ENDS COMPHYS2_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT AND4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH} &
+ V(D) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND4_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y VREF PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A,VREF) > {VTHRESH}  &
+ V(B,VREF) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT NAND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND3_BASIC_GEN
*$
.SUBCKT NAND4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH} &
+ V(D) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND4_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.SUBCKT OR4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH} |
+ V(D) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR4_BASIC_GEN
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT NOR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR3_BASIC_GEN
*$
.SUBCKT NOR4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH} |
+ V(D) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR4_BASIC_GEN
*$
.SUBCKT NOR5_BASIC_GEN A B C D E Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH} |
+ V(D) > {VTHRESH} |
+ V(E) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR5_BASIC_GEN
*$
.SUBCKT NOR6_BASIC_GEN A B C D E F Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH} |
+ V(D) > {VTHRESH} |
+ V(E) > {VTHRESH} |
+ V(F) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR6_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT XOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE  YINT 0 VALUE {{IF(V(A) > {VTHRESH}  ^
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS XOR2_BASIC_GEN
*$
.SUBCKT XNOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE  YINT 0 VALUE {{IF(V(A) > {VTHRESH}  ^
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS XNOR2_BASIC_GEN
*$
.SUBCKT MUX2_BASIC_GEN A B S Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE  YINT 0 VALUE {{IF(V(S) > {VTHRESH},
+ V(B),V(A))}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS MUX2_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
**Set has higher priority in this latch
******************************************************
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
Cdummy1 Q 0 1n
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
*******************************************************************
**Set has higher priority in this latch
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
Cdummy1 Q 0 1n
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS SRLATCHSHP_BASIC_GEN
******************************************************
*$
**Reset has higher priority in this latch and active low set and reset - basically NAND based SR latch
.SUBCKT SBRBLATCHRHP_BASIC_GEN SB RB Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(RB) < {VTHRESH},-5,IF(V(SB) < {VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
.IC V(Qint) {VSS}
.ENDS SBRBLATCHRHP_BASIC_GEN
*$
**Reset has higher priority in this latch and active low set and reset - basically NAND based SR latch
.SUBCKT SBRBLATCHSHP_BASIC_GEN SB RB Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(SB) < {VTHRESH},5,IF(V(RB) < {VTHRESH},-5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
.IC V(Qint) {VSS}
.ENDS SBRBLATCHSHP_BASIC_GEN
*$
.SUBCKT DFFSBRB_SHPBASIC_GEN Q QB CLK D RB SB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(SB) < {VTHRESH},5,IF(V(RB)<{VTHRESH},-5, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.ENDS DFFSBRB_SHPBASIC_GEN
*$
.SUBCKT DFFSR_SHPBASIC_GEN Q QB CLK D R S PARAMS: VDD=1 VSS=0 VTHRESH=0.5
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R) > {VTHRESH},-5, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.ENDS DFFSR_SHPBASIC_GEN
*$
.SUBCKT DFFSBRB_RHPBASIC_GEN Q QB CLK D RB SB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(RB) < {VTHRESH},-5,IF(V(SB)< {VTHRESH},5, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 5
D_D11 0 Qint D_D1
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.ENDS DFFSBRB_RHPBASIC_GEN
*$
.SUBCKT DFFSR_RHPBASIC_GEN Q QB CLK D R S PARAMS: VDD=1 VSS=0 VTHRESH=0.5
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S) > {VTHRESH},5, IF(V(CLKint)> {VTHRESH},
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr Qb 1
Cdummy1 Q 0 1nF
Cdummy2 QB 0 1nF
.IC V(Qint) {VSS}
.ENDS DFFSR_RHPBASIC_GEN
*$
**** SPM_Mono_POS  ***************************************************************************************
* FUNCTION: SHORT TIME PULSE GENERATOR AT NEG INPUT EDGE
* INPUTS/OUTPUTS: ONE DIGITAL INPUT: A, TWO DIG OUTPUT PINS: Q Qn
* DESCRIPTION: CREATE A PW PULSE WIDTH AT -VE EDGE OF INPUT, PULSE WIDTH OF INPUT NEEDS TO BE GREATER THAN PW PARAMETER VALUE
**********************
.SUBCKT MONOPOS_PS in Q Qn PARAMS: PW=1u
****buffer*********
*RA in 0 1e11
*CA in 0 0.01pF
*VS VSUP 0 DC 1
**** boolean ************
*EBUF1 Y1 0 VALUE={IF(V(in) > .5 , 1, 0)}
*ROUTpp1 Y1 0 1e11
**** add delay lines ****
*XNSW1 Y2 Y1  0 NSW_PS PARAMS: RONval={(PW+1e-15)/(1e-12*0.693)} VTHval=0.5
*XPSW1 Y2 Y1 VSUP PSW_PS PARAMS: RONval={(PW+1e-15)/(1e-12*0.693)} VTHval=0.5
*CDEL1 Y2 0 1pF
*ETHRESH Y3 0 VALUE={IF(V(Y2) > 0.5, 0, 1)}
*ROUTp Y3 0 1e11
* ************add rise and fall *****
**XNSW2 Y4 Y3 0 NSW_PS PARAMS: RONval=(1e-12/1e-12*2.3) VTHval=0.5
**XPSW2 Y4 Y3 VSUP PSW_PS PARAMS: RONval=(1e-12/1e-12*2.3) VTHval=0.5
**CDEL2 Y4 0 1pF
************XOR2***********
*EXOR2 P 0 VALUE={IF(V(in) > 0.5 ^ V(Y3) > .5, 1, 0)}
*ROUTpp2 P 0 1e11
**********AND************
*EAND2 Y5 0 VALUE={IF(V(in) > 0.5 & V(P) > 0.5 , 0, 1)}
*ROUTpp3 Y5 0 1e11
* add rise and fall *****
*XNSW3 Q Y5 0 NSW_PS PARAMS: RONval=(1e-9/1e-12*2.3) VTHval=0.5
*XPSW3 Q Y5 VSUP PSW_PS PARAMS: RONval=(1e-9/1e-12*2.3) VTHval=0.5
*ROUTq Q 0 1e11
***********end of AND2********************
* add rise and fall + inversion *****
*XNSW4 Qn Q 0 NSW_PS PARAMS: RONval=(1e-9/1e-12*2.3) VTHval=0.5
*XPSW4 Qn Q VSUP PSW_PS PARAMS: RONval=(1e-9/1e-12*2.3) VTHval=0.5
*ROUTqn Qn 0 1e11
*******************************new take on delay*************
VS VSUP 0 DC 1
GIN VSUP YA VALUE={IF(V(IN)>0.5, V(VSUP)/1000K, 0)}
GDIS YA 0 VALUE={IF(V(IN)>0.5,0, V(YA)/1m)}
CIN YA 0 1n IC=0
RIN YA 0 1e11
EABM1 YTD 0 VALUE={IF(V(YA)> {PW*1000}, 1, 0)}
RYTD YTD 0 1e11
EXOR P 0 VALUE={IF(V(YTD) > 0.5 ^ V(IN) > .5, 1, 0)}
ROUTpp2 P 0 1e11
EAND1 Q1 0 VALUE={ IF(V(P)>0.5 & V(IN)>0.5, 1, 0)}
Ro1 Q1 Q 1m
Co1 Q 0 1p
ROUT2 Q 0 1e11
EAND2 Qn1 0 VALUE={ IF(V(Q)>0.5, 0, 1)}
Ro2 Qn1 Qn 1m
Co2 Qn 0 1p
ROUT4 Qn 0 1e11
.ENDS MONOPOS_PS
*$
.SUBCKT LDCR 1 2 PARAMS: L=1u DCR=20m
L1 1 INT1 {L}
R1 INT1 2 {DCR}
.ENDS LDCR
*$
.SUBCKT CESR 1 2 PARAMS: C=10u ESR=2m ESL=1n
C1 1 INT1 {C}
R1 INT1 INT2 {ESR}
L1 INT2 2 {ESL}
.ENDS CESR
*$
.SUBCKT multiplier V1 V2  OUT
E_MULT    OUT 0 VALUE = { V(V1) *V(V2) }
.ENDS multiplier
*$
.SUBCKT 2to1MUX V1 V2  A  out    PARAMS:  VTHRESH=0.5
E_MUX    OUT 0 VALUE = {IF (  V(A) > {VTHRESH} ,V(V1),V(V2) ) }
.ENDS 2to1MUX
*$
.SUBCKT VI_HL Vin VDD Vout
E_out  Vout 0 VALUE = {if ( V(Vin) > V(VDD)*0.7, V(VDD),
+ if ( V(Vin) < V(VDD)*0.3, 0 , V(VDD)/2 ))}
.ends
*$
.SUBCKT COMPHYS_BASIC_GEN_NORC INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 1n
*RINP1 INP1 0 1K
RINP1 INP1 0 1000K
.ENDS COMPHYS_BASIC_GEN_NORC
*$
.SUBCKT COMP_HYS IN_POS IN_NEG HYS OUT
X_U1         IN_POS N00153 OUT COMP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM2         N00234 0 VALUE { V(IN_NEG)+
+ +(-V(OUT)*V(HYS))   }
R_R1         N00234 N00153  1
C_C1         0 N00153  1n
.ENDS COMP_HYS
* PSpice Model Editor - Version 16.2.0
*************************************************************
*************************************************************
*************************************************************
* PSpice Model Editor - Version 16.2.0
*$
.SUBCKT VARI_R  CNTL 1 2
+PARAMS:   PTEMP=29
*Normalized to an equationwith VDDMAX=5.5V
*EVDD  VDDN 0 VALUE={V(CNTL)*0.0009-0.00495}
*Echeck ABSTEMP 0 VALUE={1+0.5*({PTEMP}-27)}
*E_tempco TEMPCO 0 VALUE={V(CNTL)*V(ABSTEMP)}
*G_out  1 2 VALUE = { (V(1,2) /  (V(TEMPCO))   ) }
G_out  1 2 VALUE = {V(1,2)/V(CNTL)}
.ends  VARI_R
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=1
+ tt=1e-011
.ends d_d
*$

.SUBCKT INVERTER IN OUT
EOUT OUT1 0 VALUE { IF( V(IN)<0.5,1,0) }
R1 OUT1 OUT 1
C1 OUT 0 10p
.ends INVERTER
*$
.SUBCKT BUFFER_PS A Y PARAMS: vhi=1 vlo=0 vthresh=500e-3 tplh=1e-9 tphl=1e-9 tr=1e-9 tf=1e-9
RA A 0 1e11
CA A 0 0.01pF
VS VSUP 0 DC 1
EBUF1 Ypp 0 VALUE={IF(V(A) > ({vthresh}), 1, 0)}
ROUTpp Ypp 0 1e11
XNSW1 OUTp Ypp 0 NSW_PS PARAMS: RONval={(tplh+1e-15)/(1e-12*0.693)} VTHval=0.5
XPSW1 OUTp Ypp VSUP PSW_PS PARAMS: RONval={(tphl+1e-15)/(1e-12*0.693)} VTHval=0.5
CDEL1 OUTp 0 1pF
ETHRESH Yp 0 VALUE={IF(V(OUTp) > 0.5, 1, 0)}
ROUTp Yp 0 1e11
XNSW2 OUTr Yp 0 NSW_PS PARAMS: RONval={(tf+1e-15)/(1e-12*2.3)} VTHval=0.5
XPSW2 OUTr Yp VSUP PSW_PS PARAMS: RONval={(tr+1e-15)/(1e-12*2.3)} VTHval=0.5
CDEL2 OUTr 0 1pF
EOUT OUTf 0 VALUE={V(OUTr)*({vhi} - {vlo})+{vlo}}
RDR OUTf Y  1000
RO Y 0 1e11
.ENDS BUFFER_PS
*$
.SUBCKT NSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF CSval=0.01pf
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
CS G S {CSval}
***EEXP F1 0 VALUE={LIMIT(((V(G,S)-VTHval)/VCHARval),-80,80)}
Etest test 0 VALUE={IF(V(D) > V(S), V(G,S), V(G,D))}
GOUT D S VALUE={V(D,S)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS NSW_PS
*$
.SUBCKT PSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
Etest test 0 VALUE={IF(V(S) > V(D), V(S,G), V(D,G))}
GOUT S D VALUE={V(S,D)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS PSW_PS
*$
*$
.SUBCKT AND2_BASIC_nodelay A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 100p
.ENDS AND2_BASIC_nodelay
*$
